US05965678
To a solution of 5.00 g (20.08 mmol) titanocene dichloride in 100 ml THF were added 4.57 g (20.08 mmol) 1-cyclohexyl-3-methyl-4-phenyl-1-aza-buta-1,3-diene and 0.83 g magnesium and the mixture was stirred at room temperature until the metal was fully reacted. The solvent was then removed to dryness in vacuo and the residue was extracted with 50 ml diethyl ether. 5.31 g 2,2-bis(cyclopentadienyl)-1-cyclohexyl-4-methyl-3-phenyl-1-aza-2-titana-cyclopent-4-ene were isolated from the diethyl ether extract as black crystals. (65% yield, characterised by 1H-NMR, 13C-NMR and elemental analysis).

reactant | titanocene dichloride | 20.08 mmol, 5.00 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
reactant | 1-cyclohexyl-3-methyl-4-phenyl-1-aza-buta-1,3-diene | 20.08 mmol, 4.57 g | C1(CCCCC1)N=CC(=CC1=CC=CC=C1)C | C16H21N
reactant | magnesium | 0.83 g | [Mg] | Mg
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,2-bis(cyclopentadienyl)-1-cyclohexyl-4-methyl-3-phenyl-1-aza-2-titana-cyclopent-4-ene | 5.31 g, 65% yield | C1(C=CC=C1)[Ti]1(N(C=C(C1C1=CC=CC=C1)C)C1CCCCC1)C1C=CC=C1 | InChI=1S/C16H21N.2C5H5.Ti/c1-14(12-15-8-4-2-5-9-15)13-17-16-10-6-3-7-11-16;2*1-2-4-5-3-1;/h2,4-5,8-9,12-13,16H,3,6-7,10-11H2,1H3;2*1-5H;/q-1;;;+1
